US07402608B2
3-[(1-Methyl-piperidin-3-ylmethyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (162 mg, 0.348 mmol) was dissolved in 1,2-dichloroethane (3.0 mL) and treated with trans-4-Methyl-cyclohexanecarbonyl chloride in 1,2-dichloroethane (1.0 mL, 0.43 mol). The solution was heated at reflux for 1 day. The solvent was then evaporated and the residue purified by silica gel column chromatography using hexanes:EtOAc as eluent to provide 3-[(4-Methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-3-ylmethyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester as an oil (0.194 g, 95% yield). 1H NMR (CDCl3, 400 MHz) Rotamer 65/35: 7.90 (s, 0.35H), 7.70 (d, 0.65 H), 7.62-7.10 (m, 10H), 5.20-5.00 (m, 2H), 4.70(m, 0.35H), 4.60-4.40 (m, 0.65H), 4.12 (m, 1H), 3.82 (s, 3H), 3.52 (t, 0.65H), 3.20 (t, 0.35H), 2.70 (d, 0.65H), 2.52 (t, 0.35H), 1.90 (m, 1H), 1.80-1.20 (m, 13H), 1.00-0.85 (m, 1H), 0.76 (d, 3H), 0.64 (m, 2H).

reactant | 3-[(1-Methyl-piperidin-3-ylmethyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.348 mmol, 162 mg | COC(=O)C=1SC(=CC1NCC1CN(CCC1)C)C1=CC=CC=C1 | C19H24N2O2S
reactant | trans-4-Methyl-cyclohexanecarbonyl chloride | C[C@@H]1CC[C@H](CC1)C(=O)Cl | C8H13ClO
solvent | 1,2-dichloroethane | 3.0 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | 1,2-dichloroethane | 0.43 mol, 1.0 mL | ClCCCl | C2H4Cl2
product | 3-[(4-Methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-3-ylmethyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.194 g, 95% yield | COC(=O)C=1SC(=CC1N(CC1CN(CCC1)C)C(=O)C1CCC(CC1)C)C1=CC=CC=C1 | C27H36N2O3S
